US06734184B1
To a solution of LDA [8.5 mmol ; prepared by slow addition of n-butyl lithium (3.5 ml, 8.5 mmol, 2.5 M in hexane) to a solution of diisopropylamine (860 mg, 8.5 mmol) in dry THF (5 ml) at −78° C.] at −78° C. was added a solution of 1-(4-fluorophenyl)4-(methanesulfonyl)piperazine (1 g, 3.87 mmol) in THF (25 ml) dropwise. The mixture was stirred at −78° C. for 1 hour and a solution of diethylchlorophosphate (670 mg; 3.87 mmol) in THF (3 ml) was added. The mixture was stirred at −78° C. for 1 hour and benzaldehyde (450 mg; 4.24 mmol) in THF (3 ml) was added. The mixture was gently warmed to room temperature and stirred for 18 hours. The mixture was washed with aqueous ammonium chloride and extracted with ethyl acetate. The organic layers were washed with water, brine and dried over MgSO4. Purification of the residue on silica (eluant: dichloromethane) afforded 1-(4-fluorophenyl)4(trans-β-styrenesulfonyl)piperazine as a white powder (621 mg, 46%).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-butyl lithium | 8.5 mmol, 2.5 M, 3.5 ml | C(CCC)[Li]
reactant | diisopropylamine | 8.5 mmol, 860 mg | C(C)(C)NC(C)C | C6H15N
reactant | 1-(4-fluorophenyl)4-(methanesulfonyl)piperazine | 3.87 mmol, 1 g | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15FN2O2S
reactant | diethylchlorophosphate | 3.87 mmol, 670 mg | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
reactant | benzaldehyde | 4.24 mmol, 450 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)4(trans-β-styrenesulfonyl)piperazine | 621 mg, 46% | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)\C=C\C1=CC=CC=C1 | C18H19FN2O2S
